US07638515B2
4-(3-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal (308 mg, 1.0 mmol) and 5-methyl-1H-indazol-4-ylamine (148 mg, 1.0 mmol) are introduced into 15.0 ml of xylene and mixed with titanium(IV)ethylate (0.42 ml, 2.0 mmol). After 3 hours under reflux, the reaction mixture is allowed to cool to room temperature. After ethyl acetate and saturated sodium chloride solution are added, it is stirred vigorously for 30 minutes at room temperature. The deposited precipitate is suctioned off, the aqueous phase is separated, and the organic phase is dried on sodium sulfate. The purification is carried out by means of chromatography on silica gel with hexane/ethyl acetate (30-40% ethyl acetate). 345 mg (79% of theory) of 1,1,1-trifluoro-4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-[(5-methyl-1H-indazol-4-ylimino)methyl]-pentan-2-ol is obtained.

reactant | 4-(3-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal | 1.0 mmol, 308 mg | FC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-methyl-1H-indazol-4-ylamine | 1.0 mmol, 148 mg | CC=1C(=C2C=NNC2=CC1)N | C8H9N3
reactant | xylene | 15.0 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1,1-trifluoro-4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-[(5-methyl-1H-indazol-4-ylimino)methyl]-pentan-2-ol | 345 mg, 79% | FC(C(CC(C)(C)C1=C(C(=CC=C1)F)OC)(O)C=NC1=C2C=NNC2=CC=C1C)(F)F | C22H23F4N3O2
